US09260418B2
6-(4-Chlorobenzyl)-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one was prepared by the procedure described for the synthesis of 6-[(6-chloropyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one in Example 1, substituting 4-chlorobenzylzinc chloride for (2-chloro-5-pyridyl)methylzinc chloride.

reactant | 6-[(6-chloropyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O)=O | C23H20ClN3O3
reactant | (2-chloro-5-pyridyl)methylzinc chloride | [Cl-].ClC1=NC=C(C=C1)C[Zn+]
product | 6-(4-Chlorobenzyl)-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one | ClC1=CC=C(CC=2C=C3C(N(C=NC3=C3C2C=CC=C3)[C@@H]3[C@H](COCC3)O)=O)C=C1 | C24H21ClN2O3
